US07977331B1
To a solution of 4-bromoresorcinol (30 g, 159 mmol) in acetone (300 ml) were added potassium carbonate (66 g, 471 mmol) and chloromethyl methyl ether (30 ml, 397 mmol) under ice-cooling and the mixture was stirred at room temperature for 22 hr. The reaction mixture was concentrated and water was added. The mixture was extracted with ethyl acetate and the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure to give 1-bromo-2,4-bismethoxymethoxybenzene as a crude product. The obtained compound was used in Step 2 without further purification.

reactant | 4-bromoresorcinol | 159 mmol, 30 g | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | potassium carbonate | 471 mmol, 66 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl ether | 397 mmol, 30 ml | COCCl | C2H5ClO
reactant | acetone | 300 ml | CC(=O)C | C3H6O
product | 1-bromo-2,4-bismethoxymethoxybenzene | BrC1=C(C=C(C=C1)OCOC)OCOC | C10H13BrO4
